US06156914
6-Di-n-butylamino-2-(6-di-n-butylamino-3-oxo-2(3H)-benzofuranylidene)-3(2H)-benzofuranone (1d)
1.8 g (8.1 mmol) of 3-di-n-butylamino-phenol are dissolved in 20 ml of dry chloroform with exclusion of moisture. 0.7 ml (8.8 mmol) of chloroacetyl chloride is added dropwise with vigorous stirring. Silica gel (about 10 g in total) is then allowed to trickle in until a large proportion of the reaction solution has been absorbed, and the mixture is boiled under reflux for 15 hours. Finally, the solid is filtered off and washed with chloroform until the wash solution remains virtually colourless. The organic phases are combined. After the solvent has been stripped off on a rotary evaporator, 1.4 g of a dark brown, highly viscous crude product are obtained. Working up of the crude product by column chromatography over silica gel using chloroform as the solvent gives the oxindigo colorant as a red-violet fraction in the first runnings. After the chloroform has been stripped off, the resulting colorant is dried under an oil pump vacuum at 75° C. for 5 hours.

reactant | 3-di-n-butylamino-phenol | 8.1 mmol, 1.8 g | C(CCC)N(C=1C=C(C=CC1)O)CCCC | C14H23NO
reactant | chloroacetyl chloride | 8.8 mmol, 0.7 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-Di-n-butylamino-2-(6-di-n-butylamino-3-oxo-2(3H)-benzofuranylidene)-3(2H)-benzofuranone | C(CCC)N(C1=CC2=C(C(C(O2)=C2OC3=C(C2=O)C=CC(=C3)N(CCCC)CCCC)=O)C=C1)CCCC | C32H42N2O4
